US04306097
3-[2-Benzyloxy-4-(1,1-Dimethylheptyl)phenyl]cyclohex-2-enone
A solution of 3.89 g. (10 mmoles) of 2-(3-benzyloxy-4-bromophenyl)-2-methyloctane in 10 ml. of tetrahydrofuran was slowly added to 360 mg. (14.4 mmoles) of 70-80 mesh magnesium metal. The resulting mixture was refluxed for 30 minutes and then cooled to 0° C. To this solution was slowly added a solution of 1.40 g. (10 mmoles) of 3-ethoxy-2-cyclohexen-1-one in 3 ml. of tetrahydrofuran. The reaction mixture was stirred for 30 minutes at 0° C. and then quenched by the addition of 20 ml. of 1N sulfuric acid and heating on the steam bath for 30 minutes. It was then cooled and added to 200 ml. of ether-200 ml. of water. The organic extract was washed successively with 200 ml. of saturated sodium bicarbonate and 200 ml. of saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The crude product was purified via column chromatography on 170 g. of silica gel eluted with 1:1 ether:pentane to yield 2.5 g. (54%) of the title compound as an oil.

reactant | 2-(3-benzyloxy-4-bromophenyl)-2-methyloctane | 10 mmoles | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)C(C)(CCCCCC)C | C22H29BrO
reactant | magnesium | [Mg] | Mg
reactant | 3-ethoxy-2-cyclohexen-1-one | 10 mmoles | C(C)OC1=CC(CCC1)=O | C8H12O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-Benzyloxy-4-(1,1-Dimethylheptyl)phenyl]cyclohex-2-enone | 54% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1=CC(CCC1)=O | C28H36O2
